US05338857
To 1 l of concentrated sulfuric acid, 40 g (0.22 mol) of orthonitrophenylacetic acid were added, followed by stirring at 105°-110° C. for 90 minutes. After cooling, 2.5 l of ice water in limited amounts was added to the reaction mixture. The resultant mixture was extracted with 1 l of ethyl ether. The extract was dried over anhydrous sodium sulfate and the solvent was distilled off, so that 18.1 g (yield: 50.2%) of 2,1-benzisoxazole-3-carboxylic acid was obtained as crystals.

reactant | sulfuric acid | 1 l | S(O)(O)(=O)=O | H2O4S
reactant | orthonitrophenylacetic acid | 0.22 mol, 40 g | [N+](=O)([O-])C1=C(C=CC=C1)CC(=O)O | C8H7NO4
product | 2,1-benzisoxazole-3-carboxylic acid | 18.1 g, yield: 50.2% | N=1OC(=C2C1C=CC=C2)C(=O)O | C8H5NO3
